US04894386
A mixture of t-butyl (triphenylphosphoranylidene)propionate (10.41 g) and methyl 4-(5-formyl-1-methylindol-3-ylmethyl)-3-methoxybenzoate (4.5 g) in dry dioxane (60 ml) was stirred and heated at 100° for 18 hr, under an atmosphere of nitrogen. After ethyl acetate (100 ml) was added to the cooled reaction solution, solids were removed by filtration and the filtrate evaporated. The residual dark oil was purified by flash chromatography, eluting with 45:50:5 hexane: methylene chloride:ethyl acetate, to give methyl E-4-[5-[2-(t-butoxycarbonyl)-1-propenyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate (5.4 g, 90%) as a white foam: partial NMR (250 MHz, DMSO-6): 1.49 (s, 9H, t-butyl), 2.01(d, J=1.0 Hz, 3H, CCH3), 3.74(s, 3H), 3.82(s, 3H), 3.90(s, 3H), 4.05(s, 2H, ArCH2Ar').

reactant | t-butyl (triphenylphosphoranylidene)propionate | 10.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=C(C(=O)OC(C)(C)C)C | C25H27O2P
reactant | methyl 4-(5-formyl-1-methylindol-3-ylmethyl)-3-methoxybenzoate | 4.5 g | C(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC | C20H19NO4
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | methyl E-4-[5-[2-(t-butoxycarbonyl)-1-propenyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 5.4 g, 90% | C(C)(C)(C)OC(=O)/C(=C/C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC)/C | C27H31NO5
